US08703988B2
Step I—Synthesis of dimethyl 5-(hexadecyloxy)isophthalate
A 100 mL round bottom flask is charged with dimethyl-5-hydroxyisophthalic acid (0.2584 g, 1.23 mmol), potassium carbonate (0.356 g, 2.58 mmol), and potassium iodide (0.2018 g, 1.22 mmol) under an inert atmosphere. Anhydrous N,N′-dimethylformamide (10 mL) is added and the mixture is heated to 60° C. for 2 h. Bromohexadecane (0.376 mL, 1.23 mmol) is then added and the reaction is stirred overnight. After cooling to room temperature the reaction is concentrated by rotary evaporation. The crude solid is suspended in diethyl ether (40 mL), and is successively washed with deionized water (20 mL), citric acid (5 wt %, 20 mL), deionized water (20 mL), and brine (20 mL). The ether layer is separated, filtered through glass wool, concentrated by rotary evaporation, and dried in vacuo to yield and off-white solid (0.53 g, 100%).

reactant | dimethyl-5-hydroxyisophthalic acid | 1.23 mmol, 0.2584 g | CC1=C(C(=C(C=C1C(=O)O)C(=O)O)C)O | C10H10O5
reactant | potassium carbonate | 2.58 mmol, 0.356 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.22 mmol, 0.2018 g | [I-].[K+]
reactant | Bromohexadecane | 1.23 mmol, 0.376 mL | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | N,N′-dimethylformamide | 10 mL | CN(C)C=O | C3H7NO
product | dimethyl 5-(hexadecyloxy)isophthalate | C(CCCCCCCCCCCCCCC)OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C26H42O5
